US09216988B2
1-Bromo-2-methylpropane (34.7 g, 255.0 mmol) was added into a solution of (S)—N-(1-(4-bromophenyl)ethyl)(phenyl)methanesulfonamide (30.0 g, 85.0 mmol) and K2CO3 (35.2 g, 255.0 mmol) in CH3CN (500 mL) dropwise at 0° C. The mixture was then stirred at reflux for 48 h before it was cooled to ambient temperature. The mixture was filtered and the filtrate was concentrated in vacuo to remove the solvent. The residue was dissolved with DCM (100 mL) and washed with water (100 mL). The organic layer was dried over Na2SO4, filtered and concentrated in vacuo to give a residue which was purified on silica gel chromatography (petroleum ether:ethyl acetate=10:1) to provide (S)—N-(1-(4-bromophenyl)ethyl)-N-isobutyl(phenyl)methanesulfonamide (4.2 g, 12% yield) as colorless oil. 1H NMR (400 MHz, CDCl3) δ ppm 0.71 (d, 3H), 0.77 (d, 3H), 1.48 (d, 3H), 1.60-1.66 (m, 1H), 2.77-2.83 (m, 2H), 4.11-4.22 (m, 2H), 4.94-4.96 (m, 2H), 7.24-7.48 (m, 9H); >99% ee value (Chiral-HPLC, 214 nm).

reactant | 1-Bromo-2-methylpropane | 255.0 mmol, 34.7 g | BrCC(C)C | C4H9Br
reactant | (S)—N-(1-(4-bromophenyl)ethyl)(phenyl)methanesulfonamide | 85.0 mmol, 30.0 g | BrC1=CC=C(C=C1)[C@H](C)NS(=O)(=O)CC1=CC=CC=C1 | C15H16BrNO2S
reactant | K2CO3 | 255.0 mmol, 35.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 500 mL | CC#N | C2H3N
product | (S)—N-(1-(4-bromophenyl)ethyl)-N-isobutyl(phenyl)methanesulfonamide | 4.2 g, 12% yield | BrC1=CC=C(C=C1)[C@H](C)N(S(=O)(=O)CC1=CC=CC=C1)CC(C)C | C19H24BrNO2S
